US07365225B2
Step a) Formation of methyl 4-(aminocarbonothioyl)benzoate
A mixture of methyl-4-cyanobenzoate (5.0 g, 0.031 mol) and diethyl dithiophosphate (11.5 g, 0.062 mol) in water (100 mL) was stirred overnight at 80° C. under a nitrogen atmosphere. The reaction mixture was allowed to cool to ambient temperatures and the solid was filtered and washed with water (100 mL). The solid was then dried in vacuo at 40° C. to give the crude product (4.74 g, 78%).

reactant | methyl-4-cyanobenzoate | 0.031 mol, 5.0 g | COC(C1=CC=C(C=C1)C#N)=O | C9H7NO2
reactant | diethyl dithiophosphate | 0.062 mol, 11.5 g | P(=S)(SCC)(OCC)[O-]
solvent | water | 100 mL | O | H2O
product | methyl 4-(aminocarbonothioyl)benzoate | 4.74 g, 78% | NC(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
